US04499094
Operations are carried out as for Example 7, starting with 1.7 g of 1-(3-chlorophenyl) isoquinoline 3-carboxylic acid, 0.69 g of triethylamine, 0.74 g of ethyl chloroformate and 0.56 g of diethylamine in 60 ml of chloroform. 1.45 g of N,N-diethyl 1-(3-chlorophenyl) isoquinoline 3-carboxamide melting at 116° C., are obtained.

reactant | 1-(3-chlorophenyl) isoquinoline 3-carboxylic acid | 1.7 g | ClC=1C=C(C=CC1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | triethylamine | 0.69 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.74 g | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 0.56 g | C(C)NCC | C4H11N
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl 1-(3-chlorophenyl) isoquinoline 3-carboxamide | 1.45 g | C(C)N(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=CC(=CC=C1)Cl)CC | C20H19ClN2O
